* Extracted by KLayout with GF180MCU LVS runset on : 26/08/2026 20:58

.SUBCKT gilbert_multiplier_current V_tail V_x_p V_x_n V_w_n V_w_p I_o_n I_o_p
+ VSS
M$1 I_o_n VSS VSS VSS nfet_03v3 L=0.5U W=10U AS=4.35P AD=4.35P PS=18.48U
+ PD=18.48U
M$2 \$10 V_w_p I_o_n VSS nfet_03v3 L=0.5U W=20U AS=5.2P AD=5.2P PS=24.16U
+ PD=24.16U
M$3 I_o_p V_w_n \$10 VSS nfet_03v3 L=0.5U W=20U AS=5.2P AD=5.2P PS=24.16U
+ PD=24.16U
M$12 \$23 V_w_n I_o_n VSS nfet_03v3 L=0.5U W=20U AS=5.2P AD=5.2P PS=24.16U
+ PD=24.16U
M$13 I_o_p V_w_p \$23 VSS nfet_03v3 L=0.5U W=20U AS=5.2P AD=5.2P PS=24.16U
+ PD=24.16U
M$21 I_o_p VSS VSS VSS nfet_03v3 L=0.5U W=10U AS=4.35P AD=4.35P PS=18.48U
+ PD=18.48U
M$41 \$3 VSS VSS VSS nfet_03v3 L=1U W=8U AS=3.48P AD=3.48P PS=13.74U PD=13.74U
M$42 VSS V_tail \$3 VSS nfet_03v3 L=1U W=8U AS=2.08P AD=2.08P PS=9.04U PD=9.04U
M$43 \$4 V_tail VSS VSS nfet_03v3 L=1U W=8U AS=2.08P AD=2.08P PS=9.04U PD=9.04U
M$47 \$10 VSS VSS VSS nfet_03v3 L=0.5U W=10U AS=4.35P AD=4.35P PS=16.74U
+ PD=16.74U
M$48 \$3 V_x_p \$10 VSS nfet_03v3 L=0.5U W=10U AS=2.6P AD=2.6P PS=11.04U
+ PD=11.04U
M$51 \$23 VSS VSS VSS nfet_03v3 L=0.5U W=10U AS=4.35P AD=4.35P PS=16.74U
+ PD=16.74U
M$52 \$4 V_x_n \$23 VSS nfet_03v3 L=0.5U W=10U AS=2.6P AD=2.6P PS=11.04U
+ PD=11.04U
R$55 \$3 \$4 VSS 15400 ppolyf_u_1k L=46.2U W=3U
.ENDS gilbert_multiplier_current
